US03987047
1,2,4,5-Tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester was prepared from 3-ethyl-1,2,4,5-tetrahydro 11-methyl-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 59.

reactant | 3-ethyl-1,2,4,5-tetrahydro 11-methyl-3H-azepino[4,5-b]quinoline | C(C)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C | C16H20N2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 1,2,4,5-Tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | Yield: 10% | C(C)OC(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C | C17H20N2O2
